US07910595B2
1-Bromo-4-isopropyl-2-nitrobenzene
To fuming nitric acid (5 mL) cooled to 5° was added neat 4-bromoisopropylbenzene (1.0 g, 5.023 mmol) dropwise at such a rate that the reaction temperature remained below 10°. The reaction was stirred for 2 hours at 5-10°, quenched with ice (50 g), extracted with ethyl acetate (50 mL), and the organic extract was washed with water (2×25 mL) and brine (25 mL), then dried over magnesium sulfate filtered and concentrated by rotary evaporation. The residue was purified by silica gel flash chromatography eluting with 5:95 ethyl acetate/hexanes to afford the title compound as a light yellow solid (1.03 g, 4.22 mmol, 84%). 1H NMR (300 MHz, CHLOROFORM-D) δ ppm 1.27 (d, J=6.99 Hz, 6 H) 2.75-3.23 (m, 1 H) 7.29 (dd, J=8.82, 2.21 Hz, 1 H) 7.63 (d, J=8.09 Hz, 1 H) 7.69 (d, J=2.21 Hz, 1 H); MS (DCI) m/z 261/263 (M+NH4)−.

reactant | nitric acid | 5 mL | [N+](=O)(O)[O-] | HNO3
reactant | 4-bromoisopropylbenzene | 5.023 mmol, 1.0 g | BrC1=CC=C(C=C1)C(C)C | C9H11Br
product | 1-Bromo-4-isopropyl-2-nitrobenzene | 4.22 mmol, 1.03 g, 84% | BrC1=C(C=C(C=C1)C(C)C)[N+](=O)[O-] | C9H10BrNO2
